US08754073B2
73.2 4-(4,5-diphenyloxazol-2-yl)-piperidine (V-26)
560 mg tert-butyl 4-(4,5-diphenyloxazol-2-yl)-piperidine-1-carboxylate are placed in 2 ml dichloromethane, then 1.1 ml trifluoroacetic acid are added. The reaction mixture is stirred for 15 hours at ambient temperature, then evaporated to dryness. The residue is combined with toluene and evaporated to dryness again. The residue is combined with diethyl ether and the precipitated solid is suction filtered and dried. 510 mg (V-26) are obtained.

reactant | tert-butyl 4-(4,5-diphenyloxazol-2-yl)-piperidine-1-carboxylate | 560 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C25H28N2O3
reactant | trifluoroacetic acid | 1.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-(4,5-diphenyloxazol-2-yl)-piperidine | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1CCNCC1 | C20H20N2O
